* BVM Sharp Edge Test — 1ps rise/fall vs 5ps original
.include ../../circuits/bvm/bvm_cell.cir
XBVM1 WL1 BL1 SE1 SL1 BVM
B_LD1  SL1 nld1  jj320 area=1
B_LD2  nld1 nld2 jj320 area=1
B_LD3  nld2 nld3 jj320 area=1
B_LD4  nld3 nld4 jj320 area=1
B_LD5  nld4 nld5 jj320 area=1
B_LD6  nld5 nld6 jj320 area=1
B_LD7  nld6 nld7 jj320 area=1
B_LD8  nld7 nld8 jj320 area=1
B_LD9  nld8 nld9 jj320 area=1
B_LD10 nld9 nld10 jj320 area=1
B_LD11 nld10 nld11 jj320 area=1
B_LD12 nld11 0 jj320 area=1

* WL: 1ps rise/fall, 10ps hold @ 100μA
I_WL1 0 WL1 pwl(0 0 9p 0
+ 10p 100U 20p 100U 21p 0
+ 70p 0 71p 100U 80p 100U 81p 0
+ 130p 0 131p -100U 140p -100U 141p 0
+ 190p 0 191p 100U 200p 100U 201p 0
+ 220p 0)

* BL: same sharp edges
I_BL1 0 BL1 pwl(0 0 9p 0
+ 10p 100U 20p 100U 21p 0
+ 70p 0 81p 0
+ 130p 0 131p -100U 140p -100U 141p 0
+ 190p 0 220p 0)

* SE: sharp edges, 10ps hold
I_SE1 0 SE1 pwl(0 0
+ 70p 0 71p 100U 80p 100U 81p 0
+ 190p 0 191p 100U 200p 100U 201p 0
+ 220p 0)

.tran 0.25p 220p 0 0.5p 0 DST
.print I(I_WL1) I(I_BL1) I(I_SE1)
.print V(B_JM1|XBVM1) P(B_JM1|XBVM1)
.print I(L_M1|XBVM1)
.print I(B_LD1)
.end
